US07781597B2
To a stirred suspension of 1-bromo-3-nitro-5-trifluoromethyl-benzene (4.05 g, 15 mmol), 4-methyl-1H-imidazole (2.01 g, 24 mmol, 98%), and potassium carbonate (3.73 g, 27 mmol) in N,N-dimethylformamide (10 mL) are added ethylenediamine (0.141 mL, 2.1 mmol) and copper(I) iodide (0.204 g, 1.05 mmol). The vigorously stirred mixture is heated to 110° C. for 23 hours. After that, most of the 1-bromo-3-nitro-5-trifluoromethyl-benzene is converted, and the suspension is allowed to cool down to room temperature. The mixture is diluted with tert-butyl methyl ether (30 mL) and 5% aqueous NaCl solution (30 mL) and isopropyl acetate (15 mL) are added. The aqueous layer is separated and extracted with a mixture of tert-butyl methyl ether (10 mL) and isopropyl acetate (5 mL). The organic layers are combined and filtered. The filtrate is washed with water (10 mL), treated for 5 minutes with ethylenediamine (0.303 mL), washed with water (10 mL), 5% aqueous sodium metabisulfite solution (10 mL) and water (10 mL) before it is treated with activated carbon (1.2 g) at room temperature for 1 hour. The suspension is filtered using filter aid, and the filtrate is evaporated to dryness under reduced pressure to give a clear, red-brown oil which solidifies upon standing at room temperature. The obtained solid is purified by column chromatography on silica gel eluting with a 4:5 mixture of ethyl acetate and hexane (in the presence of 0.5 volume % of triethylamine) to afford mainly 4-methyl-1-(3-nitro-5-trifluoromethyl-phenyl)-1H-imidazole as a pale yellow solid. Yield: 21.1% (HPLC purity: 96.7 area %) Melting point: 118-119° C.

reactant | 1-bromo-3-nitro-5-trifluoromethyl-benzene | 15 mmol, 4.05 g | BrC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3BrF3NO2
reactant | 4-methyl-1H-imidazole | 24 mmol, 2.01 g | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | 27 mmol, 3.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylenediamine | 2.1 mmol, 0.141 mL | C(CN)N | C2H8N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tert-butyl methyl ether | 30 mL | COC(C)(C)C | C5H12O
solvent | NaCl | 30 mL | [Na+].[Cl-]
solvent | isopropyl acetate | 15 mL | C(C)(=O)OC(C)C | C5H10O2
catalyst | copper(I) iodide | 1.05 mmol, 0.204 g | [Cu]I
product | 4-methyl-1-(3-nitro-5-trifluoromethyl-phenyl)-1H-imidazole | Yield: 21.1% | CC=1N=CN(C1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C11H8F3N3O2
